US05736284
25.3 g (111.7 mmol) of 3-formyl-9-ethylcarbazole (2') (manufactured by Tokyo Kasei Kogyo Co.), 39.6 g (122.9 mmol) of diethyl diphenylmethylphosphite, 253 ml of DMF and 15.04 g (134.0 mmol) of potassium-t-butoxide were allowed to react and after treated in the same manner as with Example 1 (2) to obtain 36.44 g of 3-(2',2'-diphenylvinyl)-9-ethylcarbazole.

reactant | 3-formyl-9-ethylcarbazole | 111.7 mmol, 25.3 g | C(=O)C=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C15H13NO
reactant | diethyl diphenylmethylphosphite | 122.9 mmol, 39.6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)P(OCC)(OCC)[O-]
reactant | potassium-t-butoxide | 134.0 mmol, 15.04 g | CC(C)([O-])C.[K+]
solvent | DMF | 253 ml | CN(C)C=O | C3H7NO
product | 3-(2',2'-diphenylvinyl)-9-ethylcarbazole | 36.44 g, Yield; 86.7% | C1(=CC=CC=C1)C(=CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC)C1=CC=CC=C1 | C28H23N
